US05472983
Preparation of N-tert-butyl 4-methylbenzamide (CPI1039 )
The preparation of Example 1 was repeated with the changes that the starting reactants were tert-butyl amine (4.72 g, 0.065 mole) and 4-methylbenzoyl chloride (5.02 g, 0.0325 mole), the reaction was carried out in benzene and the reaction produced 5.54 g of crystals of the desired product (89% yield), mp 114°-116° C. Proton nuclear magnetic resonance (89.55 MHz) showed absorptions at 7.615 ppm (d, 8 Hz, 2H; 2,6-aryl H); 7.193 ppm (d, 8 Hz, 2H; 3.5-aryl H); 5.970 ppm (bs, 1H; N-H); 2.377 ppm (s, 3H; 4-CH3); 1.461 ppm (s, 9H; tert-butyl H).

reactant | tert-butyl amine | 0.065 mole, 4.72 g | C(C)(C)(C)N | C4H11N
reactant | 4-methylbenzoyl chloride | 0.0325 mole, 5.02 g | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-tert-butyl 4-methylbenzamide | 89% yield | C(C)(C)(C)NC(C1=CC=C(C=C1)C)=O | C12H17NO
